US06537730B1
A] Methyl (vinylbenzyl) sulfide
Sodium methanethiolate (24.67 g, 0.35 mol) was combined with methanol (250 ml) in a 1 liter round bottomed flask outfitted with an addition funnel and a nitrogen inlet. Vinylbenzyl chloride (41.0 ml, 60:40 mixture of p- and o-isomers, 0.29 mol) in tetrahydrofuran (100 ml) was added via addition funnel over 30 minutes. The reaction mixture grew slightly warm and a milky suspension resulted. This was allowed to stir at room temperature for 20 hours at which point only a small amount of vinylbenzyl chloride was still evident by thin layer chromatography (2:1 hexanes/CH2Cl2 eluent). Another portion of sodium methanethiolate was added (5.25 g, 7.49×10−2 mol) and after ten minutes, the reaction had proceeded to completion by thin layer chromatography. Diethyl ether (400 ml) was added and the resulting mixture was extracted twice with 600 ml of water and once with 600 ml of brine. The resulting organic extracts were dried over magnesium sulfate, a small amount (about 1 mg) of 3-t-butyl-4-hydroxy-5-methyl phenyl sulfide was added, and the solvents were stripped by rotary evaporation to afford a yellowish oil. Purification by vacuum distillation through a long Vigreux column yielded 43.35 g (91%) of the pure product as a clear liquid.

reactant | Sodium methanethiolate | 0.35 mol, 24.67 g | C[S-].[Na+]
reactant | methanol | 250 ml | CO | CH4O
reactant | Vinylbenzyl chloride | 0.29 mol, 41.0 ml | C(=C)C(C1=CC=CC=C1)Cl | C9H9Cl
reactant | Diethyl ether | 400 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | Methyl (vinylbenzyl) sulfide | 43.35 g, 91% | C(=C)C(C1=CC=CC=C1)SC | C10H12S
